US08440693B2
Intermediate 26.1: (4-Hydroxy-3-methoxy-phenyl)-acetic acid
A mixture of (4-hydroxy-3-methoxy-phenyl)-acetic acid ethyl ester (2 g, 9.51 mmol) and LiOH monohydrate (1.2 g, 28.5 mmol) in MeOH (20 ml) and water (10 ml) was stirred at RT for 14 h. The reaction mixture was concentrated under vacuum, diluted into water and neutralized by the addition of HCl 2 M in water (14.3 ml). The resulting slurry was extracted with DCM (3×) and AcOEt (2×) and the combined organic fractions were dried over Na2SO4, filtered and evaporated to dryness to yield the crude title compound (1.67 g, 9.17 mmol, 96%) as a brownish solid, which was used in the next step without further purification. HPLC: AtRet=0.77 min; LC-MS: m/z 183.4 [M+H]+; 1H NMR (400 MHz, DMSO-d6): 3.43 (s, 2H), 3.74 (s, 3H), 6.61-6.66 (m, J=8.1, 2.0, 1H), 6.67-6.72 (m, 1H), 6.81 (d, J=2.0, 1H), 8.81 (s, 1H), 12.17 (s, 1H).

reactant | (4-hydroxy-3-methoxy-phenyl)-acetic acid ethyl ester | 9.51 mmol, 2 g | C(C)OC(CC1=CC(=C(C=C1)O)OC)=O | C11H14O4
solvent | MeOH | 20 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | (4-Hydroxy-3-methoxy-phenyl)-acetic acid | 9.17 mmol, 1.67 g, 96% | OC1=C(C=C(C=C1)CC(=O)O)OC | C9H10O4
